US06352993B1
5,6-dimethyl-2-(4-methylthiazol-2-yl)amino-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
The same procedures as in Step 4 of Example 22 were repeated using 5,6-dimethyl-2-(4-methylthiazol-2-yl)amino-4-chloropyrimidine(0.85 g, 3.34 mmol), 1,2,3,4-tetrahydroisoquinoline(0.42 ml, 3.34 mmol) and dimethylformamide (5 ml) to afford 140 mg of the titled compound.

reactant | 5,6-dimethyl-2-(4-methylthiazol-2-yl)amino-4-chloropyrimidine | 3.34 mmol, 0.85 g | CC=1C(=NC(=NC1C)NC=1SC=C(N1)C)Cl | C10H11ClN4S
reactant | 1,2,3,4-tetrahydroisoquinoline | 3.34 mmol, 0.42 ml | C1NCCC2=CC=CC=C12 | C9H11N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(4-methylthiazol-2-yl)amino-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 140 mg, Yield: 10.8% | Cl.CC=1C(=NC(=NC1C)NC=1SC=C(N1)C)N1CC2=CC=CC=C2CC1 | InChI=1S/C19H21N5S.ClH/c1-12-11-25-19(20-12)23-18-21-14(3)13(2)17(22-18)24-9-8-15-6-4-5-7-16(15)10-24;/h4-7,11H,8-10H2,1-3H3,(H,20,21,22,23);1H
